US07667041B2
Synthesis of (E)-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]butyric acid tert-butyl ester
To an anhydrous THF (3.0 mL) solution of (E)-4-hydroxy-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]butyric acid tert-butyl ester (100 mg), triphenylphosphine (87.8 mg), phthalimide (49.3 mg) and diisopropyl azodicarboxylate (77.0 μL) were added one by one. After agitating reaction solution at room temperature for 1.5 hours, reaction solution was concentrated under reduced pressure as it was, the residue was purified by silica gel chromatography (elution solvent:ethyl acetate), and 119 mg of the title compound was obtained. The physical properties of the compound are as follows.

reactant | (E)-4-hydroxy-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]butyric acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(/C(/CCO)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C20H26N2O4
reactant | triphenylphosphine | 87.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 49.3 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 77.0 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | (E)-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]butyric acid tert-butyl ester | 119 mg | C(C)(C)(C)OC(/C(/CCN1C(C2=CC=CC=C2C1=O)=O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C28H29N3O5
